US07763636B2
18.1 4-methyl-5-nitro-2-phenylpyridine
A mixture of 2 g (11.59 mmol) of 2-chloro-4-methyl-5-nitropyridine, 1.41 g (11.59 mmol) of phenylboronic acid, 1.33 g (1.16 mmol) of tetrakis(triphenylphosphine)palladium and 4 g (28.97 mmol) of potassium carbonate suspended in 50 ml of degassed dioxane is refluxed for 12 hours. The mixture is then cooled, diluted with 50 ml of ethyl acetate, successively washed twice with 20 ml of water and then with 20 ml of saturated sodium chloride solution, dried over sodium sulfate, filtered and then concentrated under reduced pressure. The residue obtained is purified by chromatography on a column of silica (eluents: heptane/ethyl acetate) and then recrystallized from an isopropanol/isopropyl ether mixture. 2.19 g of a yellow solid are thus isolated, and are used without further purification in the following synthesis.

reactant | 2-chloro-4-methyl-5-nitropyridine | 11.59 mmol, 2 g | ClC1=NC=C(C(=C1)C)[N+](=O)[O-] | C6H5ClN2O2
reactant | phenylboronic acid | 11.59 mmol, 1.41 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | potassium carbonate | 28.97 mmol, 4 g | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 1.16 mmol, 1.33 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-methyl-5-nitro-2-phenylpyridine | 2.19 g | CC1=CC(=NC=C1[N+](=O)[O-])C1=CC=CC=C1 | C12H10N2O2
